US04537621
A suspension of 34.9 parts by weight of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrophenyl disulfide in 200 parts by volume of absolute methylene chloride was saturated, at room temperature, with chlorine, and stirring was continued for a further 12 hours. The reaction solution was filtered, the filtrate was evaporated down under reduced pressure and the oily residue was crystallized by trituration. 37 parts by weight (96% yield) of 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride of melting point 74°-78° C. were obtained (compound No. 2).

reactant | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrophenyl disulfide | ClC1=C(OC=2C=C(C(=CC2)[N+](=O)[O-])SSC2=CC(=CC=C2[N+](=O)[O-])OC2=C(C=C(C=C2)C(F)(F)F)Cl)C=CC(=C1)C(F)(F)F | C26H12Cl2F6N2O6S2
reactant | chlorine | ClCl | Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2'-chloro-4'-trifluoromethylphenoxy)-6-nitrobenzenesulfenyl chloride | 96% yield | ClC1=C(OC=2C=C(C(=CC2)[N+](=O)[O-])SCl)C=CC(=C1)C(F)(F)F | C13H6Cl2F3NO3S
